US07074817B2
1-(2-Ethylbutyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole
The title compound was prepared from 5-bromo-1-(2-ethylbutyl)-1H-indole and 4-(trifluoromethoxy)phenylboronic acid in substantially the same manner, as described in Step 2 of Example 25. The product was obtained as an oil. Mass spectrum (APCI, [M+H]+) m/z 362. 1HNMR (300 MHz, DMSO-d6): δ 7.82 (s, 1H), 7.77 (d, 2H, J=8.56 Hz), 7.51 (d, 1H, J=8.50 Hz), 7.44-7.39 (m, 4H), 6.49 (d, 1H, J=3.12 Hz), 4.07 (d, 2H, J=7.32 Hz), 1.80 (hep, 1H), 1.24 (p, 4H), and 0.85 ppm (t, 6H).

reactant | 5-bromo-1-(2-ethylbutyl)-1H-indole | BrC=1C=C2C=CN(C2=CC1)CC(CC)CC | C14H18BrN
reactant | 4-(trifluoromethoxy)phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 1-(2-Ethylbutyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole | C(C)C(CN1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)CC | C21H22F3NO
